US07435837B2
To a solution of (±)-(7-bromo-4,5-difluoro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (1.5 g, 3.59 mmol) in dioxane (30 mL) was added phenylboronic acid (0.656 g, 5.38 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)dichloromethane adduct (0.293 g, 0.359 mmol), and potassium carbonate (0.993 g, 7.18 mmol) and the reaction mixture was heated at reflux for 48 h. The reaction mixture was filtered (celite), rinsed (ethyl acetate), and the combined organic layers were washed with water (100 mL), aqueous sodium chloride (75 mL), dried (sodium sulfate) and the solvent was removed in vacuo to provide a crude solid. Purification by column chromatography (silica, ethyl acetate:hexane 1:9) afforded 1.19 g (80%) of (±)-(4,5-difluoro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. Rf=0.76 (silica, ethyl acetate:hexanes 1:9); 1H NMR (DMSO-d6) δH 7.69 (d, 2H); 7.50 (dd, 1H); 7.56 (d, 2H); 7.35 (m, 6H); 5.14 (m, 1H); 4.30 (dd, 1H); 4.20 (dd, 1H); 3.39 (dd, 1H); 3.05 (dd, 1H).

reactant | (±)-(7-bromo-4,5-difluoro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 3.59 mmol, 1.5 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=C(C=C2Br)F)F | C16H13BrF2O4S
reactant | phenylboronic acid | 5.38 mmol, 0.656 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 7.18 mmol, 0.993 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (±)-(4,5-difluoro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 1.19 g, 80% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=C(C=C2C2=CC=CC=C2)F)F | C22H18F2O4S
